US07425568B2
3-Nitro-2-(2-phenylchroman-6-yloxy)-pyridine
6-Hydroxyflavane (0.150 g) was dissolved in 3 ml of dry DMF under nitrogen. KF (0.117 g) was added and the solution was stirred for 30 minutes at +120° C. The solution was cooled a bit and 2-chloro-3-nitropyridine was added (0.212 g) and stirred for 7 hours at +120° C. and overnight at room temperature. The reaction mixture was taken up with EtOAc and 1M HCl and water were added and phases separated. Organic phase was washed with water and pH was adjusted to 7 with 1M NaOH. Organic phase was washed with water, brine and dried over Na2SO4. Product was purified by column chromatography (CH2Cl2:n-heptane/80:20). 1H-NMR (400 MHz; d6-DMSO): δ 8.55 (dd, 1H, J=7.9 Hz, J=1.7 Hz), 8.42 (dd, 1H, J=4.9 Hz, J=1.7 Hz), 7.51-7.29 (m, 6H), 7.02-6.92 (m, 2H), 6.88 (d, 1H, J=8.7 Hz), 5.14 (dd, 1H, J=10.0 Hz, J=2.1 Hz), 3.05-2.92 (m, 1H), 2.78-2.68 (m, 1H), 2.22-2.13 (m, 1H), 2.07-1.95 (m, 1H).

reactant | 6-Hydroxyflavane | 0.150 g | OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C15H14O2
reactant | KF | 0.117 g | [F-].[K+]
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | HCl | 1M | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Nitro-2-(2-phenylchroman-6-yloxy)-pyridine | [N+](=O)([O-])C=1C(=NC=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
